US09376441B2
Prepared by the procedure, previously described for the synthesis of tert-butyl 3-(4-bromophenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate, using instead 6-oxa-3-azabicyclo[3.1.1]heptane as a starting material to afford 570.0 mg (61%) of 3-(4-bromophenyl)-6-oxa-3-azabicyclo[3.1.1]heptane.

reactant | tert-butyl 3-(4-bromophenyl)-3,6-diazabicyclo[3.1.1]heptane-6-carboxylate | BrC1=CC=C(C=C1)N1CC2N(C(C1)C2)C(=O)OC(C)(C)C | C16H21BrN2O2
reactant | 6-oxa-3-azabicyclo[3.1.1]heptane | C12CNCC(O1)C2 | C5H9NO
product | 3-(4-bromophenyl)-6-oxa-3-azabicyclo[3.1.1]heptane | 570.0 mg, 61% | BrC1=CC=C(C=C1)N1CC2OC(C1)C2 | C11H12BrNO
